US06608089B2
Preparation of 7-propynyloxy-3-methylflavone
A mixture of 7-hydroxy-3-methylflavone (2.52 g, 0.01 mol), K2CO3 (2.8 g, 0.02 mol), Kl (0.166 g, 0.001 mol), propargyl bromide (1.78 g, 0.015 mol) and acetone (100 mL) was refluxed 10 h and hot filtered. The solvent was evaporated and the residue was crystallized by toluene. This yields 2.32 g of a product with the following characteristics: m.p. 179-180° C.; 1H NMR (CDCl3) δ: 2.15 (s, 3H), 2.69 (m, 1H), 4.8 (s, 2H), 6.95-8.25 (m, 8H).

reactant | 7-hydroxy-3-methylflavone | 0.01 mol, 2.52 g | OC1=CC=C2C(C(=C(OC2=C1)C1=CC=CC=C1)C)=O | C16H12O3
reactant | K2CO3 | 0.02 mol, 2.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | propargyl bromide | 0.015 mol, 1.78 g | C(C#C)Br | C3H3Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 7-propynyloxy-3-methylflavone | C(#CC)OC1=CC=C2C(C(=C(OC2=C1)C1=CC=CC=C1)C)=O | C19H14O3
